US08633173B2
To a solution of 4-Nitrophenylphosphonic dichloride (2.14 g, 8.91 mmol) in tetrahydrofuran at −78° C. was added vinylmagnesium bromide (2.34 g, 17.8 mmol). The solution was stirred at −78° C. for one hour then quenched by the addition of ammonium chloride solution. The mixture was extracted with dichloromethane. The combined organic layers were dried and concentrated. 4-(Divinyl-phosphinoyl)nitro benzene was isolated as a brown-yellow oil (1.69 g, 85%). MS=224 (MH)+.

reactant | 4-Nitrophenylphosphonic dichloride | 8.91 mmol, 2.14 g | [N+](=O)([O-])C1=CC=C(C=C1)P(=O)(Cl)Cl | C6H4Cl2NO3P
reactant | vinylmagnesium bromide | 17.8 mmol, 2.34 g | C(=C)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(Divinyl-phosphinoyl)nitro benzene | C(=C)P(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C=C | C10H10NO3P
